US08614327B2
To a solution of 5-nitro-2-(trifluoromethyl)phenol and 2-bromo-5-nitro-phenol (10 g, 48.28 mmol) in methanol (60 mL) was added Raney Nickel (2.83 g, 318 μL, 48.28 mmol) under an atmosphere of nitrogen. The reaction mixture was then stirred for 4 h at room temperature under an atmosphere of hydrogen (1 atm). The catalyst was removed by filtration through a pad of celite and the filtrate was evaporated under vacuum. The crude product was purified by preparative HPLC to obtain 5-amino-2-(trifluoromethyl)phenol (1.7 g, 20%). 1H NMR (400 MHz, DMSO-d6) δ 9.79 (s, 1H), 7.04 (d, J=8.8 Hz, 1H), 6.10 (s, 1H), 6.01 (d, J=8.4 Hz, 1H), 5.58 (br s, 2H).

reactant | 5-nitro-2-(trifluoromethyl)phenol | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(F)(F)F | C7H4F3NO3
reactant | 2-bromo-5-nitro-phenol | 48.28 mmol, 10 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
solvent | methanol | 60 mL | CO | CH4O
catalyst | Raney Nickel | 48.28 mmol, 318 μL, 2.83 g | [Ni] | Ni
product | 5-amino-2-(trifluoromethyl)phenol | 1.7 g, 20% | NC=1C=CC(=C(C1)O)C(F)(F)F | C7H6F3NO
